US09422287B2
Methyl 2-(3-bromo-9H-carbazolyl)benzoate
62 g (207 mmol) of methyl 2-(9H-carbazolyl)benzoate are cooled to −10° C. in 2 l of DMF, and 37.3 g (207 mmol) of NBS are added in portions. The solution is then brought to room temperature and stirred at this temperature for 6 h. 500 ml of water are subsequently added to the mixture, which is then extracted with CH2Cl2. The organic phase is dried over MgSO4, and the solvents are removed in vacuo. The product is washed by stirring with hot toluene, and the solid is isolated.

reactant | methyl 2-(9H-carbazolyl)benzoate | 207 mmol, 62 g | C1(=CC=CC=2C3=CC=CC=C3NC12)C1=C(C(=O)OC)C=CC=C1 | C20H15NO2
reactant | NBS | 207 mmol, 37.3 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | water | 500 ml | O | H2O
solvent | DMF | 2 l | CN(C)C=O | C3H7NO
product | Methyl 2-(3-bromo-9H-carbazolyl)benzoate | BrC=1C=C(C=2NC3=CC=CC=C3C2C1)C1=C(C(=O)OC)C=CC=C1 | C20H14BrNO2
